US08686044B2
Preparation of 2-chloro-N-(3-(2,6-dibromo-4-(perfluoropropan-2-yl)phenylcarbamoyl)-2-fluorophenyl)nicotinamide (Compound No. 6-1140)
According to the method of 1-7 of Example 1, a target compound was prepared from 3-amino-N-(2,6-dibromo-4-(perfluoropropan-2-yl)phenyl)-2-fluorobenzamide and 2-chloronicotinic acid chloride.

reactant | 3-amino-N-(2,6-dibromo-4-(perfluoropropan-2-yl)phenyl)-2-fluorobenzamide | NC=1C(=C(C(=O)NC2=C(C=C(C=C2Br)C(C(F)(F)F)(C(F)(F)F)F)Br)C=CC1)F | C16H8Br2F8N2O
reactant | 2-chloronicotinic acid chloride | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
product | 2-chloro-N-(3-(2,6-dibromo-4-(perfluoropropan-2-yl)phenylcarbamoyl)-2-fluorophenyl)nicotinamide | ClC1=C(C(=O)NC2=C(C(=CC=C2)C(NC2=C(C=C(C=C2Br)C(C(F)(F)F)(C(F)(F)F)F)Br)=O)F)C=CC=N1 | C22H10Br2ClF8N3O2
